US07825128B2
c) Preparation of (RS)—S-(4-aminophenyl)-N-(2-methoxy-ethyl)-S-methylsulphoximide
493 mg (2.03 mmol) (RS)—S-(4-aminophenyl)-N-(2-methoxy-acetyl)-S-methylsulphoximide is dissolved in 67.8 ml tetrahydrofuran, cooled in the ice-bath and treated dropwise with 6.13 ml (6.13 mmol) borane tetrahydrofuran complex. The mixture is stirred for 90 minutes and quenched with one drop of methanol and one drop of water. After chromatographic purification (silica gel, hexane/ethyl acetate (0-50% ethyl acetate)), 383 mg (82%) of the desired product is obtained.

reactant | (RS)—S-(4-aminophenyl)-N-(2-methoxy-acetyl)-S-methylsulphoximide | 2.03 mmol, 493 mg | NC1=CC=C(C=C1)S(=O)(=NC(COC)=O)C | C10H14N2O3S
solvent | tetrahydrofuran | 67.8 ml | O1CCCC1 | C4H8O
product | (RS)—S-(4-aminophenyl)-N-(2-methoxy-ethyl)-S-methylsulphoximide | 383 mg, 82% | NC1=CC=C(C=C1)S(=O)(=NCCOC)C | C10H16N2O2S
